Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
A.C.E Inhibitors
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Patient is a ___ YO M with a history of CAD and MI in ___ 
treated medically who presents today with stuttering chest pain. 
He states that the symptoms began 5 days prior to admission. He 
notes that he was shoveling snow that day, but was not doing any 
more rigorous activity than usual. He states he developed 
substernal chest pressure radiating to his left shoulder. It was 
also associated with lightheadedness and he felt "out of focus," 
though he is not sure if this is ___ the anxiety he felt at the 
time. He took some NTG he had at home, and symptoms resolved 
after approximately 2 hours. He then noticed occasional twinges 
of chest pressure over the next few days lasting up to 45 
minutes, but not like he had originally felt. He exercised on 
the treadmill yesterday and the day before without any pressure 
or symptoms. Then, on the day of admission, he notes pain 
similar to that 5 days ago: substernal and radiating to his left 
shoulder. He did not have any NTG, so he came to the ED for 
further evaluation. He does note that this is similar to the 
symptoms he felt preceding his MI in ___, but not nearly as 
severe.  
.  
In the ED, patient received SL NTG x3 with relief of symptoms. 
He denies any current chest pain, shortness of breath, abdominal 
pain, visual changes, headache, muscle weakness, exertional 
buttock or leg pain. He denies PND, orthopnea, myalgia, 
hemoptysis, melena or hematochezia. No dysuria. Also denies 
fevers, chills, night sweats. No history of stroke, TIA, PE, 
DVT, or bleeding after surgeries.  
.  

 
Past Medical History:
H/o hypertension  
MI in ___ as above at ___  
.  
Cardiac Risk Factors: (-)Diabetes, (+)Dyslipidemia, 
(+)Hypertension  
.  
Other Past History: Patient with history of PCI at ___, no 
records here. Patient states no intervention at that time.  

 
Social History:
___
Family History:
Father died at ___ from MI, mother passed away from cancer, aunt 
and uncle also died from CAD in their ___. 
 
Physical Exam:
VS - 97.9 135/59 57 16 99% on RA  
Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

Neck: Supple with JVP of 4 cm.  
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by 
palpation. No abdominial bruits.  
Ext: No c/c/e.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas  
Pulses:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

 
Pertinent Results:
Labs:
___ 11:45AM BLOOD WBC-6.2 RBC-5.15 Hgb-14.1 Hct-42.2 MCV-82 
MCH-27.4# MCHC-33.4 RDW-14.3 Plt ___
___ 07:00AM BLOOD WBC-4.7 RBC-4.86 Hgb-13.3* Hct-39.6* 
MCV-82 MCH-27.4 MCHC-33.6 RDW-13.3 Plt ___
___ 07:00AM BLOOD ___ PTT-28.2 ___
___ 11:45AM BLOOD Glucose-103 UreaN-23* Creat-1.1 Na-138 
K-4.4 Cl-100 HCO3-28 AnGap-14
___ 07:00AM BLOOD Glucose-86 UreaN-21* Creat-1.0 Na-142 
K-5.0 Cl-103 HCO3-30 AnGap-14
___ 11:45AM BLOOD CK(CPK)-95
___ 07:40PM BLOOD CK(CPK)-67
___ 07:00AM BLOOD CK(CPK)-65
___ 11:45AM BLOOD cTropnT-<0.01
___ 07:40PM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 07:00AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 07:00AM BLOOD Calcium-9.6 Phos-3.9 Mg-2.3 Cholest-151
___ 07:00AM BLOOD Triglyc-45 HDL-67 CHOL/HD-2.3 LDLcalc-75
.
Studies:
AP UPRIGHT CHEST X-RAY: The cardiomediastinal silhouette is 
unremarkable. The lungs are clear. There is no pericardial 
effusion. The imaged osseous structures are unremarkable.
IMPRESSION: No acute cardiopulmonary process.
.
ECG: Sinus bradycardia with baseline artifact. Right 
bundle-branch block. 
Left axis deviation. Left anterior fascicular block. 
Anteroseptal myocardial infarction. Compared to previous tracing 
of ___ right bundle-branch block is now present. Otherwise, 
multiple abnormalities persist without major change.  
.

 
Brief Hospital Course:
# Chest pain: The patient had 5 days of intermittant pain that 
did not occur with vigorous exercise (1 hour on the treadmill 
twice during the 5 days prior to admission).  Chest pain 
atypical in nature, and was resolved with nitroglycerin in the 
ED. The patient did not experience any further chest pain while 
hospitalized.  Three sets of cardiac enzymes were negative.  No 
ECG changes indicative of new MI during the admission.  ECG 
during episode of pain and without pain on the floor were 
unchanged. The patient was continued on his aspirin, metoprolol 
and statin.  He should follow up with his cardiologist for 
consideration of a stress test as an outpatient if indicated. 
.  
# Hypertension: Patient is on Lopressor at home, breaks one 50mg 
into three doses over the day.  Also on Lasix as an outpatient, 
EF 35% in ___.  He was continued on his outpatient regimen 
and was not hypertensive during his admission.
.  
# Pump: Last EF was 35% in ___. On Lasix as above as an 
outpatient. He was continued on his outpatient regimen.
.  
# Thrombocytopenia: No clear baseline. Was 215 in ___. Patient 
does not seem to be on any medications that would lead to 
decreased platelets. No reason to suspect DIC.  He should have 
this followed as an outpatient.
.
# Code: FULL  

 
Medications on Admission:
Lopressor 50mg (broken into 3 doses daily)  
Zocor 40mg daily  
Lasix 20mg daily  
ASA 325mg daily  

 
Discharge Medications:
1. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO once 
a day.  
3. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
1. Chest pain NOS

Secondary:
1. Coronary artery disease
2. Hypertension
3. Dyslipidemia

 
Discharge Condition:
Hemodynamically stable.

 
Discharge Instructions:
You were admitted with chest pain; labs did not show any 
evidence of damage to the heart muscles.

You should be sure to follow-up with Dr. ___ at your 
next scheduled appointment.

Of note, your platelet level was noted to be slightly low; this 
should be rechecked as an outpatient.
 
Followup Instructions:
___